US06800788B2
To a stirred solution of H2NC(CH3)2CH2OH (16.8 g, 188 mmol) in CHCl3 (150 mL),under nitrogen at 0° C., acryloyl chloride (8.5 g, 94 mmol) (filtered over basic alumna) was added drop-wise via an addition funnel in such a way that the temperature did not exceed 5° C. (˜1.5 h). After complete addition, the reaction mixture was stirred for ˜2 h at 0-5° C., brought to room temperature, filtered and the filtrate concentrated by rotary evaporation. The residue was treated with 75 ml CHCl3 and ˜20 g basic alumina. This mixture was stirred for 0.5 h at room temperature (20-25° C.) and filtered. The alumina was washed with 2×10 mL CHCl3 and the combined filtrate was concentrated at reduced pressure to afford CH2═CHC(O)NHC(CH3)2CH2OH (13.5 g ) as a semisolid material. This material was used in the next step without further purification. 1H NMR (CDCl3) spectral data is consistent with the structure; δ 6.27 (br s, overlaps, 1H), 6.24 (dd, 1H), 6.14 (dd, 1H), 5.63 (dd, 1H), 4.88 (brs, 1H), 3.59 (s, 2H), 1.3 1 (s, 6H) ppm.

reactant | H2NC(CH3)2CH2OH | 188 mmol, 16.8 g | NC(C)(C)CO | C4H11NO
reactant | acryloyl chloride | 94 mmol, 8.5 g | C(C=C)(=O)Cl | C3H3ClO
solvent | CHCl3 | 150 mL | C(Cl)(Cl)Cl | CHCl3
product | CH2═CHC(O)NHC(CH3)2CH2OH | 13.5 g | C=CC(=O)NC(C)(C)CO | C7H13NO2
